US06911468B2
(4) 3-(4-Pentylphenyl)propyl mesylate
To a solution of 3-(4-pentylphenyl)propanol (30.8 g, 149 mmol) and triethylamine (22 ml, 155 mmol) in THF (300 ml) was added mesyl chloride (11.6 ml, 150 mmol) at 0° C., and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into ice and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate anhydride, and the organic layer was concentrated to give the object compound as an oily substance. 42.4 g, (yield 100%)

reactant | 3-(4-pentylphenyl)propanol | 149 mmol, 30.8 g | C(CCCC)C1=CC=C(C=C1)CCCO | C14H22O
reactant | triethylamine | 155 mmol, 22 ml | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 150 mmol, 11.6 ml | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 3-(4-Pentylphenyl)propyl mesylate | yield 100% | S(C)(=O)(=O)OCCCC1=CC=C(C=C1)CCCCC | C15H24O3S
